US05576426
CH3I (18.5 mL, 297 mmol) in 50 mL of ether was added slowly, to maintain reflux, to a suspension of Mg (6.0 g, 250 mmol) in 50 mL of ether. The solution was vigorously stirred during the addition. After the magnesium was consumed, the solution was chilled with an ice bath to ≅5° C. Acetylacetaldehyde dimethyl acetal (16.5 mL, 124 mmol) in 50 mL of ether was added very slowly, over a period of 2 h. After the addition was complete, the reaction was stirred for an additional hour while warming to room temperature. The reaction was quenched with 1 mL of saturated (NH4)2SO4 (aq) and filtered. The residue was washed with ether (2×50 mL). The combined filtrates were dried over Na2SO4, and the solvent was removed under water aspirator vacuum (67 mmol, 54% yield). Distillation of the residue yielded 9.9 g of 3-hydroxymethylbutanal dimethyl acetal, bp4.2 53°-56° C. bp10 60°-65° C., bp14 72°-79° C. in agreement with Malik, O. P.; Kapil, R. S., Anand, N., Ind. J. Chem. 14B (1976) 449); 1H--NMR (200 MHz, CDCl3) δ 1.24 (s, 6H, CH3), 1.80 (d, J=5.9 Hz, 2 H, CH2), 3.36 (s, 6 H, CH3O), 3.41 (s, 1 H, OH), 4.66 (t, J=5.9 Hz, 1 H, CH), 13C--NMR (50 MHz, CDCl3) δ 29.46 (CH3), 43.85 (CH2), 52.61 (CH3O), 68.63 (COH), 102.51 (CH).

reactant | CH3I | 297 mmol, 18.5 mL | CI | CH3I
reactant | Acetylacetaldehyde dimethyl acetal | 124 mmol, 16.5 mL | COC(CC(C)=O)OC | C6H12O3
reactant | ether | 50 mL | CCOCC | C4H10O
reactant | ether | 50 mL | CCOCC | C4H10O
reactant | ether | 50 mL | CCOCC | C4H10O
product | 3-hydroxymethylbutanal dimethyl acetal | 9.9 g, 54% yield | COC(CC(C)CO)OC | C7H16O3
